US08198279B2
1-(2-fluoro-4-(3-oxo-3,4-dihydropyrido[3,2-b]pyrazin-8-yloxy)phenyl)-3-(2-(pyridin-3-yloxy)-5-(trifluoromethyl)phenyl)urea (AA-093)
Method F2 was used with 8-(4-amino-3-fluorophenoxy)pyrido[2,3-b]pyrazin-3(4H)-one (30.6 mg, 0.112 mmol) and a 60.6 mM solution of phenyl 2-(pyridin-3-yloxy)-5-(trifluoromethyl)phenylcarbamate (1.6 ml, 0.097 mmol). After 40 h, the mixture was evaporated onto silica gel, loaded onto a Biotage 12+M column, which was eluted with 40%-100% EtOAc in DCM. Yield: 4 mg (7%).

reactant | 8-(4-amino-3-fluorophenoxy)pyrido[2,3-b]pyrazin-3(4H)-one | 0.112 mmol, 30.6 mg | NC1=C(C=C(OC2=CC=NC=3NC(C=NC32)=O)C=C1)F | C13H9FN4O2
reactant | phenyl 2-(pyridin-3-yloxy)-5-(trifluoromethyl)phenylcarbamate | 0.097 mmol, 1.6 ml | N1=CC(=CC=C1)OC1=C(C=C(C=C1)C(F)(F)F)NC(OC1=CC=CC=C1)=O | C19H13F3N2O3
product | 1-(2-fluoro-4-(3-oxo-3,4-dihydropyrido[3,2-b]pyrazin-8-yloxy)phenyl)-3-(2-(pyridin-3-yloxy)-5-(trifluoromethyl)phenyl)urea | FC1=C(C=CC(=C1)OC1=CC=NC2=C1N=CC(N2)=O)NC(=O)NC2=C(C=CC(=C2)C(F)(F)F)OC=2C=NC=CC2 | C26H16F4N6O4
